US06765012B2
3-{[4-(2-Diethylamino-ethoxy)-phenylamino]-methylene}-6-fluoro-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-Diethylamino-ethoxy)-phenylamine (697 mg, 1.2 equiv.) and 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (500 mg, 2.79 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (399 mg, 39%).

reactant | 4-(2-Diethylamino-ethoxy)-phenylamine | 697 mg, 1.2 equiv. | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
reactant | 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.79 mmol, 500 mg, 1 equiv. | FC1=CC=C2C(C(NC2=C1)=O)=CO | C9H6FNO2
product | 3-{[4-(2-Diethylamino-ethoxy)-phenylamino]-methylene}-6-fluoro-1,3-dihydro-indol-2-one | 399 mg, 39% | C(C)N(CCOC1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)F)=O)CC | C21H24FN3O2
